US04113464
Preparation of N-n-Hexyl-N-(1,3-dioxolan-2-ylmethyl)-α-chloroacetamide
N-n-Hexyl-N-(1,3-dioxolan-2-ylmethyl)amine (12.0 grams), benzene (100 ml), water (100 ml) and sodium carbonate (8 grams) were charged into a glass reaction vessel equipped with a mechanical stirrer and reflux condenser. The mixture was cooled to about 5° to 10° C. and chloroacetyl chloride (5.0 ml) was added dropwise with stirring. After the addition was completed stirring was continued until the reaction mixture reached room temperature. After this time the organic phase was separated from the aqueous phase and was washed with water. The washed solution was then dried over anhydrous magnesium sulfate, filtered and stripped of solvent under reduced pressure to yield the desired product N-n-hexyl-N-(1,3-dioxolan-2-ylmethyl)-α-chloroacetamide as an oil.

reactant | N-n-Hexyl-N-(1,3-dioxolan-2-ylmethyl)amine | 12.0 grams | C(CCCCC)NCC1OCCO1 | C10H21NO2
reactant | benzene | 100 ml | C1=CC=CC=C1 | C6H6
reactant | sodium carbonate | 8 grams | C([O-])([O-])=O.[Na+].[Na+]
reactant | chloroacetyl chloride | 5.0 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | water | 100 ml | O | H2O
product | N-n-hexyl-N-(1,3-dioxolan-2-ylmethyl)-α-chloroacetamide | C(CCCCC)N(C(CCl)=O)CC1OCCO1 | C12H22ClNO3
